US05028603
To a solution of 3 g of 4-(2-chlorophenyl)-2-(1-hydroxyethyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine dissolved in 30 ml of pyridine is added 1 g of pivaloyl chloride under ice-cooling and then stirred overnight. After completion of the reaction, the mixture is concentrated under reduced pressure and the residue is dissolved in 30 ml of ethyl acetate. The solution is washed with 5% aqueous sodium hydrogencarbonate solution and sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering off, the filtrate is concentrated under reduced pressure and the residue is subjected to chromatography on silica gel and eluted with chloroform-methanol (100:1-100:3). The objective fraction is concentrated under reduced pressure followed by crystallization from ligroinethyl acetate to give 1.1 g of 4-(2-chlorophenyl)-9-methyl-2(1-pivaloyloxyethyl)-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine as crystals, melting at 148°-151° C.

reactant | 4-(2-chlorophenyl)-2-(1-hydroxyethyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 3 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C(C)O)C(=NN2)C | C17H15ClN4OS
reactant | pivaloyl chloride | 1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-chlorophenyl)-9-methyl-2(1-pivaloyloxyethyl)-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 1.1 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C(C)OC(C(C)(C)C)=O)C(=NN2)C | C22H23ClN4O2S
